US20010049445A1
reacting methyl 3-oxovalerate (commercially available) with bromine to give methyl 4-bromo-3-oxovalerate, or reacting ethyl 3-oxovalerate (commercially available) with bromine to give ethyl 4-bromo-3-oxovalerate,

reactant | methyl 3-oxovalerate | O=C(CC(=O)OC)CC | C6H10O3
reactant | bromine | BrBr | Br2
product | methyl 4-bromo-3-oxovalerate | BrC(C(CC(=O)OC)=O)C | C6H9BrO3
